* PSpice Model Editor - Version 9.2

*$
* [Disclaimer] (C) Copyright Texas Instruments Incorporated 1999 All rights reserved 
* Texas Instruments Incorporated hereby grants the user of this SPICE Macro-model a 
* non-exclusive, nontransferable license to use this SPICE Macro-model under the following 
* terms. Before using this SPICE Macro-model, the user should read this license. If the 
* user does not accept these terms, the SPICE Macro-model should be returned to Texas 
* Instruments within 30 days. The user is granted this license only to use the SPICE 
* Macro-model and is not granted rights to sell, load, rent, lease or license the SPICE 
* Macro-model in whole or in part, or in modified form to anyone other than user. User may 
* modify the SPICE Macro-model to suit its specific applications but rights to derivative 
* works and such modifications shall belong to Texas Instruments. This SPICE Macro-model is 
* provided on an "AS IS" basis and Texas Instruments makes absolutely no warranty with 
* respect to the information contained herein. TEXAS INSTRUMENTS DISCLAIMS AND CUSTOMER 
* WAIVES ALL WARRANTIES, EXPRESS OR IMPLIED, INCLUDING WARRANTIES OF MERCHANTABILITY OR 
* FITNESS FOR A PARTICULAR PURPOSE. The entire risk as to quality and performance is with 
* the Customer. ACCORDINGLY, IN NO EVENT SHALL THE COMPANY BE LIABLE FOR ANY DAMAGES, 
* WHETHER IN CONTRACT OR TORT,INCLUDING ANY LOST PROFITS OR OTHER INCIDENTAL, CONSEQUENTIAL,
* EXEMPLARY, OR PUNITIVE DAMAGES ARISING OUT OF THE USE OR APPLICATION OF THE SPICE 
* Macro-model provided in this package. Further, Texas Instruments reserves the right to 
* discontinue or make changes without notice to any product herein to improve reliability, 
* function, or design. Texas Instruments does not convey any license under patent rights or 
* any other intellectual property rights, including those of third parties.
*  
* THS3001 SUBCIRCUIT
* HIGH SPEED, CURRENT FEEDBACK, OPERATIONAL AMPLIFIER  
* WRITTEN 8/10/99
* TEMPLATE=X^@REFDES %IN+ %IN- %Vcc+ %Vcc- %OUT @MODEL
* CONNECTIONS:      NON-INVERTING INPUT
*                   | INVERTING INPUT
*                   | | POSITIVE POWER SUPPLY
*                   | | | NEGATIVE POWER SUPPLY
*                   | | | | OUTPUT
*                   | | | | | 
*                   | | | | | 
*                   | | | | | 
.SUBCKT THS3001     1 2 3 4 5 
*
* INPUT *
Q1	31 32 2 NPN_IN 4
QD1	32 32 1 NPN 4
Q2	7 15 2 PNP_IN 4
QD2	15 15 1 PNP 4

* PROTECTION DIODES *
D1	1 3 Din_N 
D2	4 1 Din_P 
D3	5 3 Dout_N 
D4	4 5 Dout_P 

* SECOND STAGE *
Q3	17 31 11 PNP 2
Q4	16 7 13 NPN 2
QD3	30 30 17 PNP 3
QD4	30 30 16 NPN 3
C1	30 3  0.4p  
C2	4 30  0.4p  
F1	3 31 VF1 1
VF1	33 34 0V
F2	7 4 VF2 1
VF2	35 6 0V
F3	3 12 VF3 1
VF3	34 11 0V
F4	14 4 VF4 1
VF4	13 35 0V

* FREQUENCY SHAPING *
E1	18 0 17 0 1
E2	19 0 16 0 1
R1	44 18 25
R2	19 42 25
C3	0 14  9p  
C4	0 12  9p
L1	44 14 2.8n
L2	42 12 2.8n

* OUTPUT *
Q5	3 14 28 NPN 128
Q6	4 12 29 PNP 128
C5	28 9  7p  
R5	9 5  100  
L3	28 10  30n  
R7	10 5  8 
Re	28 29 Rt 50 
C6	29 21  7p  
R4	21 5  100  
L4	29 22  30n  
R6	22 5  8  

* BIAS SOURCES *
G1	3 32 3 4 1.656e-6
G2	15 4 3 4 1.656e-6
I1     3 32  DC 308e-6 
I2    15 4  DC 307e-6
V1	3 33 0.83
V2	6 4 0.83

.MODEL Rt RES TC1=-0.006              

* DIODE MODELS *
.MODEL Din_N D  IS=10E-21 N=1.836 ISR=1.565e-9 IKF=1e-4 BV=30 IBV=100E-6 RS=105 TT=11.54E-9 CJO=2E-12 VJ=.5 M=.3333
.MODEL Din_P D  IS=10E-21 N=1.836 ISR=1.565e-9 IKF=1e-4 BV=30 IBV=100E-6 RS=160 TT=11.54E-9 CJO=2E-12 VJ=.5 M=.3333
.MODEL Dout_N D IS=10E-21 N=1.836 ISR=1.565e-9 IKF=1e-4 BV=30 IBV=100E-6 RS=60  TT=11.54E-9 CJO=2E-12 VJ=.5 M=.3333
.MODEL Dout_P D IS=10E-21 N=1.836 ISR=1.565e-9 IKF=1e-4 BV=30 IBV=100E-6 RS=105 TT=11.54E-9 CJO=2E-12 VJ=.5 M=.3333

* TRANSISTOR MODELS *
.MODEL NPN_IN NPN 
+ IS=170E-18 BF=100 NF=1 VAF=100 IKF=0.0389 ISE=7.6E-18
+ NE=1.13489 BR=1.11868 NR=1 VAR=4.46837 IKR=8 ISC=8E-15
+ NC=1.8 RB=251.6 RE=0.1220 RC=197 CJE=120.2E-15 VJE=1.0888 MJE=0.381406
+ VJC=0.589703 MJC=0.265838 FC=0.1 CJC=133.8E-15 XTF=272.204 TF=12.13E-12
+ VTF=10 ITF=0.294 TR=3E-09 XTB=1 XTI=5 KF=25E-15

.MODEL NPN NPN 
+ IS=170E-18 BF=100 NF=1 VAF=100 IKF=0.0389 ISE=7.6E-18
+ NE=1.13489 BR=1.11868 NR=1 VAR=4.46837 IKR=8 ISC=8E-15
+ NC=1.8 RB=251.6 RE=0.1220 RC=197 CJE=120.2E-15 VJE=1.0888 MJE=0.381406
+ VJC=0.589703 MJC=0.265838 FC=0.1 CJC=133.8E-15 XTF=272.204 TF=12.13E-12
+ VTF=10 ITF=0.147 TR=3E-09 XTB=1 XTI=5

.MODEL PNP_IN PNP 
+ IS=296E-18 BF=100 NF=1 VAF=100 IKF=0.021 ISE=494E-18
+ NE=1.49168 BR=0.491925 NR=1 VAR=2.35634 IKR=8 ISC=8E-15
+ NC=1.8 RB=251.6 RE=0.1220 RC=197 CJE=120.2E-15 VJE=0.940007 MJE=0.55
+  VJC=0.588526 MJC=0.55 FC=0.1 CJC=133.8E-15 XTF=141.135 TF=12.13E-12 
+ VTF=6.82756 ITF=0.267 TR=3E-09 XTB=1 XTI=5 KF=25E-15

.MODEL PNP PNP 
+ IS=296E-18 BF=100 NF=1 VAF=100 IKF=0.021 ISE=494E-18
+ NE=1.49168 BR=0.491925 NR=1 VAR=2.35634 IKR=8 ISC=8E-15
+ NC=1.8 RB=251.6 RE=0.1220 RC=197 CJE=120.2E-15 VJE=0.940007 MJE=0.55
+  VJC=0.588526 MJC=0.55 FC=0.1 CJC=133.8E-15 XTF=141.135 TF=12.13E-12 
+ VTF=6.82756 ITF=0.267 TR=3E-09 XTB=1 XTI=5

.ENDS
*$
