* C:\Users\allys\Desktop\SlugSat\COVID-19-Simulations\SE\Radiation_Detector\Pulse_Shaper_Waveforms\Combined-Pulser-CSP-Shaper (250 ns)\combined-pulser-CSP-PS - sourced.asc
R11 0 N010 200
R5 0 N011 1k
C1 N010 N003 100pF
R4 N005 N011 100
R8 0 N006 1k
XU1 N010 N011 N001 N004 N011 level.2 Avol=1Meg GBW=80Meg Slew=200Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU2 N012 N006 N001 N004 N006 level.2 Avol=1Meg GBW=80Meg Slew=200Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1 0 N014 1k
XU3 N013 N014 N001 N004 N014 level.2 Avol=1Meg GBW=80Meg Slew=200Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C4 N006 N005 200pf
R2 N012 N005 100
C3 N012 0 69pF
C2 N013 0 69pF
R6 N013 N006 100
R12 0 N016 1k
R13 output N016 1.25k
XU5 N015 N016 N001 N004 output level.2 Avol=1Meg GBW=80Meg Slew=200Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C6 N015 0 69pF
R14 N015 N014 100
R7 N003 N002 6.9k
C5 N003 N002 420pF
C7 0 N009 10p
R10 N002 N009 13
V3 N008 0 PULSE(0 -1 0 3e-9 300e-9 0 1e-6)
C10 N009 N008 230pF
R17 N003 N010 29k
V4 N004 0 -5
V5 N001 0 5
XU4 N007 N002 N001 N004 N003 N001 OPA855
V1 N007 0 0
I1 N008 0 PULSE(0 180e-3 5e-9 300e-9 0 1e-6)
;ac dec 1k 100 1Meg
.tran 0 3e-6 0 1e-10
.lib C:\Users\allys\Downloads\OPA855\OPA855.LIB
.lib UniversalOpamps2.sub
.backanno
.end
