* C:\Users\allys\Desktop\SlugSat\COVID-19-Simulations\SE\Radiation_Detector\Pulse_Shaper_Waveforms\Combined-Pulser-CSP-Shaper (250 ns)\combined-pulser-CSP-PS.asc
R11 0 N013 240
R5 0 N014 1k
C1 N013 N012 1000pF
R4 N007 N014 930
R8 0 N008 1k
XU1 N013 N014 N023 N005 N014 level.2 Avol=1Meg GBW=80Meg Slew=200Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU2 N015 N008 N023 N005 N008 level.2 Avol=1Meg GBW=80Meg Slew=200Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1 0 N019 1k
R3 N017 N019 1k
XU3 N016 N019 N023 N005 N017 level.2 Avol=1Meg GBW=80Meg Slew=200Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C4 N008 N007 290pf
R2 N015 N007 930
C3 N015 0 100pF
C2 N016 0 100pF
R6 N016 N008 930
R12 0 N020 100
R13 output N020 1.25k
XU5 N018 N020 N023 N005 output level.2 Avol=1Meg GBW=80Meg Slew=200Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C6 N018 0 100pF
R14 N018 N017 930
V1 N005 N006 .5
V2 N001 N023 .5
R7 N003 N002 68k
C5 N003 N002 750pF
C7 0 N011 30p
R9 N012 N003 50
XU4 0 N002 N009 N022 N003 level.2 Avol=3000 GBW=300Meg Slew=1.4Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=5000Meg
R10 N002 N011 35
Q1 N006 N021 N022 0 2N3906
Q2 N001 N004 N009 0 2N3904
R15 N001 N004 1k
R16 N006 N021 1k
D1 N021 0 1N750
D2 0 N004 1N750
C8 0 N004 10µ
C9 0 N021 10µ
V3 N010 0 PULSE(0 -1 0 1e-9 1e-3 5e-9 1e-3)
C10 N011 N010 0.1pF
R17 N012 N013 140k
V4 N006 0 -12
V5 N001 0 12
.model D D
.lib C:\Users\allys\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\allys\Documents\LTspiceXVII\lib\cmp\standard.bjt
;ac dec 1k 100 1Meg
.tran 0 3e-6 0 1e-10
.lib UniversalOpamps2.sub
.backanno
.end
